US08242116B2
1-(Tetrahydropyran-2-ylmethyl)-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole
The title compound was prepared from pyrazole-4-boronic acid pinacol ester and 2-(bromomethyl)tetrahydro-2H-pyran according to Method AC (stirred in a sealed vial at r.t. for 16 h, then heating to 80° C. for 4 h before addition of further 2-(bromomethyl)-tetrahydro-2H-pyran, and heating to 80° C. for a further 2 days) and was isolated as a brown gum (75%). LCMS (ES+) 293 (M+H)+, RT 3.41 minutes (Method 1).

reactant | pyrazole-4-boronic acid pinacol ester | N1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C9H15BN2O2
reactant | 2-(bromomethyl)tetrahydro-2H-pyran | BrCC1OCCCC1 | C6H11BrO
product | 1-(Tetrahydropyran-2-ylmethyl)-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | O1C(CCCC1)CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C15H25BN2O3
